US05484804
15 drops of trifluoroacetic acid are added to a solution of 86 g of 6-acetoxy-4,4-diphenyl-2-cyclohexenone and 96 cm3 of N-butoxymethyl-N(trimethylsilylmethyl)benzylamine in 1000 cm3 of dichloromethane. The reaction mixture is stirred at room temperature for 15 hours, 2 g of sodium carbonate are then added and the mixture is concentrated to dryness under reduced pressure (2.7 kPa). The residue is chromatographed on a Merck silica gel column (particle size 0.04-0.06 mm, diameter 7 cm, height 70 cm) by eluting under a pressure of 0.5 bar of nitrogen with a mixture of cyclohexane and ethyl acetate (20/80 by volume) and collecting fractions of 200 cm3. Fractions 6 to 10 are combined and concentrated to dryness under reduced pressure (2.7 kPa). 70 g of (3aRS,5RS,7aRS)-5-acetoxy-2-benzyl-7,7-diphenylperhydroisoindol-4-one are obtained in the form of a honey (melting point below 40° C.).

reactant | 6-acetoxy-4,4-diphenyl-2-cyclohexenone | 86 g | C(C)(=O)OC1CC(C=CC1=O)(C1=CC=CC=C1)C1=CC=CC=C1 | C20H18O3
reactant | N-butoxymethyl-N(trimethylsilylmethyl)benzylamine | 96 cm3 | C(CCC)OCN(C[Si](C)(C)C)CC1=CC=CC=C1 | C16H29NOSi
reactant | sodium carbonate | 2 g | C([O-])([O-])=O.[Na+].[Na+]
catalyst | trifluoroacetic acid | 15 drops | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 1000 cm3 | ClCCl | CH2Cl2
product | (3aRS,5RS,7aRS)-5-acetoxy-2-benzyl-7,7-diphenylperhydroisoindol-4-one | 70 g | C(C)(=O)OC1C(C2CN(CC2C(C1)(C1=CC=CC=C1)C1=CC=CC=C1)CC1=CC=CC=C1)=O | C29H29NO3
